US07456283B2
A solution of 4-formyl-benzoic acid methyl ester (10.0 g, 61 mmol) in methanol (100 ml) is treated sequentially with 1-methylpiperazine (6.7 g, 67 mmol) and platinum (5%) on sulfided carbon (0.5 g). The resulting solution is then heated at 90° C. and is subjected to a pressure of 5 bar of hydrogen for a period of 4 hrs until the hydrogen uptake is complete. The reaction mixture is cooled to room temperature and filtrated over a pad of Celite. The methanol is removed under reduced pressure and replaced with toluene (100 ml). The resulting organic solution is extracted with aqueous HCl (2N, 2×50 ml). The aqueous layer is treated with concentrated aqueous NaOH (30%) to set the pH to 12 and is back-extracted with toluene (2×50 ml). The combined organic layers are concentrated in vacuo to give 12.9 g (85%) of 4-(4-methyl-piperazin-1-ylmethyl)-benzoic acid methyl ester as a pale yellow oil which may be further purified by distillation under reduced pressure.

reactant | 4-formyl-benzoic acid methyl ester | 61 mmol, 10.0 g | COC(C1=CC=C(C=C1)C=O)=O | C9H8O3
reactant | 1-methylpiperazine | 67 mmol, 6.7 g | CN1CCNCC1 | C5H12N2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 100 ml | CO | CH4O
catalyst | platinum | [Pt] | Pt
product | 4-(4-methyl-piperazin-1-ylmethyl)-benzoic acid methyl ester | 12.9 g, 85% | COC(C1=CC=C(C=C1)CN1CCN(CC1)C)=O | C14H20N2O2
